US05534520
4-acetamido-4-hydroxymethyl-1-methylpiperidine (1.6 g, 8.6 mmoles) in dry THF was refluxed in the presence of lithium aluminium hydride (3 g). After 4 hours, the mixture was poured into an ice-water bath and filtered through Celite. The solvent was evaporated and after evaporation of most of the water, the solution was extracted with chloroform, dried with magnesium sulfate and evaporated to yield 1.13 g (77% yield) of quite pure material. AF167 The product, 4-ethylamino-4-hydroxymethyl-1-methylpiperidine, so obtained, was used without further purification.

reactant | 4-acetamido-4-hydroxymethyl-1-methylpiperidine | 8.6 mmoles, 1.6 g | C(C)(=O)NC1(CCN(CC1)C)CO | C9H18N2O2
reactant | lithium aluminium hydride | 3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | C1CCOC1 | C4H8O
product | 4-ethylamino-4-hydroxymethyl-1-methylpiperidine | 77% yield | C(C)NC1(CCN(CC1)C)CO | C9H20N2O
